US04054719
Following the procedure of Example 1, 5 grams of 3,4-dichlorophenacyl chloride are reacted with 5 grams of acetic acid to obtain 3,4-dichlorophenacyl acetate, m.p. 68°-70° C.

reactant | 3,4-dichlorophenacyl chloride | 5 grams | ClC=1C=C(C(CCl)=O)C=CC1Cl | C8H5Cl3O
reactant | acetic acid | 5 grams | C(C)(=O)O | C2H4O2
product | 3,4-dichlorophenacyl acetate | C(C)(=O)OCC(=O)C1=CC(=C(C=C1)Cl)Cl | C10H8Cl2O3
